US06919331B2
A mixture of 1-[5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (90 mg, 0.2 mmol), tributylvinyltin (76 mg, 0.24 mmol) and tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol) in toluene (4 mL) was heated to reflux for 4 h. After cooling, the reaction mixture was diluted with EtOAc and washed with sat. NaHCO3 and brine. The organic layer was dried over MgSO4 and evaporated. The residue was purified by flash chromatography (hexanes:EtOAc 4:1 to 2:1) to give 26 mg (32%) of 1-isopropyl-3-[1-(3-methyl-butyl)-5-vinyl-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one as a off-white solid.

reactant | 1-[5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.2 mmol, 90 mg | BrC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C23H27BrN4O
reactant | tributylvinyltin | 0.24 mmol, 76 mg | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-isopropyl-3-[1-(3-methyl-butyl)-5-vinyl-1H-benzoimidazol-2-ylmethyl]-1,3-dihydro-benzoimidazol-2-one | 26 mg, 32% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C=C)=O | C25H30N4O
